US04870082
Preparation of nicotinic acid (4-quinolinylmethylene)hydrazide, Compound 7
A mixture of 7.86 gm (0.05 mole) of 4-quinolinecarboxaldehyde, 6.86 gm (0.05 mole) of nicotinic acid hydrazide and 100 ml of ethanol is refluxed 2 hr. The reaction mixture is cooled to room temperature. The solid which sepatates is collected, washed with water and dried; 14.4 gm (quantitative) to give the title compound; mp. 99.6° C. The product is recrystallized from ethanol to give 11.54 gm (83%) of the title compound, having a melting point of 192.7° C.

reactant | 4-quinolinecarboxaldehyde | 0.05 mole, 7.86 gm | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | nicotinic acid hydrazide | 0.05 mole, 6.86 gm | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | nicotinic acid (4-quinolinylmethylene)hydrazide | N1=CC=C(C2=CC=CC=C12)C=NNC(C1=CN=CC=C1)=O | C16H12N4O
